US04968713
Chloroacetone, 2.55 grams (0.28 mol) in 250 mL of acetone, was added to a solution of 3.55 g (0.025 mol) of 1,4,5-trimethyl-2-mercaptoimidazole and 3.15 g (0.031 mol) of triethylamine in 250 mL of acetone and the resulting mixture stirred at room temperature for 16 hours. At the end of this period the acetone was removed by evaporation and the residue was partitioned between ethyl acetate and water. The ethyl acetate solution was washed successively with water and brine, and then dried over magnesium sulfate. After drying, the solvent was evaporated from the filtered dry solution to obtain 3.39 grams of 1,4,5-trimethyl-2[(2-oxopropyl)thio]imidazole. The latter was purified by flash chromatography on silica gel using 1 percent methanol in chloroform as an eluant to obtain 3.0 grams of purified 1,4,5-trimethyl-2[(2-oxopropyl)thio]imidazole.

reactant | Chloroacetone | ClCC(C)=O | C3H5ClO
reactant | 1,4,5-trimethyl-2-mercaptoimidazole | 0.025 mol, 3.55 g | CN1C(=NC(=C1C)C)S | C6H10N2S
reactant | triethylamine | 0.031 mol, 3.15 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 1,4,5-trimethyl-2[(2-oxopropyl)thio]imidazole | 3.39 grams | CN1C(=NC(=C1C)C)SCC(C)=O | C9H14N2OS
